US05373014
To a mixture of 16.8 g (0.1 mol) N-hydroxyphthalimide and 12.7 g (0.11 mol) tert-BuOK in 150 mL DMF under stirring was added cyanomethyl chloride (7.8 g, 0.1 mol). Discoloration of the reaction mixture occurred in 10 min. After 24 h of stirring at room temperature the mixture was poured into 750 mL of cold H2O. Precipitate was filtered off and dried under vacuum in the presence of anhydrous CaSO4 to yield about 10 g (50%) of cyanomethoxyphthalimide. To a solution of 10 g (0.05 mol) cyanomethoxyphthalimide in 50 mL THF was added dropwise at room temperature during 2 h a solution of 2.5 mL (0.05 mol) hydrazine-hydrate (100%) in 10 mL MeOH. After additional stirring for 2 h the mixture was acidified under ice-cooling with 25 mL of 2M solution (0.05 mol) HCl and the resulting mixture was stirred at this temperature for 30 min. The insoluble material was filtered off, filtrate adjusted to pH 7 with 2M NaOH. The product was then extracted 4 times with EtOAc, the combined organics were washed with brine, and dried over anhydrous Na2SO4. The solution was concentrated in vacuo, the residue was dissolved in ether and treated with an excess of dry hydrogen chloride. The title compound, a precipitate, was filtered off and dried under vacuum in the presence of anhydrous CaSO4.

reactant | N-hydroxyphthalimide | 0.1 mol, 16.8 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | tert-BuOK | 0.11 mol, 12.7 g | C(C)(C)(C)O[K]
reactant | cyanomethyl chloride | 0.1 mol, 7.8 g | C(#N)CCl | C2H2ClN
reactant | H2O | 750 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | cyanomethoxyphthalimide | about 10 g, 50% | C(#N)COC1=C2C(C(=O)NC2=O)=CC=C1 | C10H6N2O3
